US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.150 g, 0.42 mmol), 3-(3-fluoro-phenyl)-propylamine (0.091 mL, 0.6 mmol), and K2CO3 (0.138 g, 1 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-[3-(3-fluoro-phenyl)-propyl]-7-iodo-2,3-dihydro-isoindol-1-one (0.110 g, 69%). 1H NMR (300 MHz, CDCl3): δ ppm) 2.01 (m, 2H), 2.72 (t, 2H), 3.66 (t, 2H), 4.25 (s, 2H), 6.82-7.24 (m, 5H), 7.41 (d, 1H), 7.92 (d, 1H).

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.42 mmol, 0.150 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 3-(3-fluoro-phenyl)-propylamine | 0.6 mmol, 0.091 mL | FC=1C=C(C=CC1)CCCN | C9H12FN
reactant | K2CO3 | 1 mmol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-[3-(3-fluoro-phenyl)-propyl]-7-iodo-2,3-dihydro-isoindol-1-one | 0.110 g, 69% | FC=1C=C(C=CC1)CCCN1C(C2=C(C=CC=C2C1)I)=O | C17H15FINO
